US04655824
2,6-Dichloro-4-(2-chloro-4-trifluoromethyl-phenoxy)-pyridine
16.5 gm (0.12 mol) of potassium carbonate were added in portions to an ice-cooled and stirred suspension of 19.65 gm (0.1 mol) of 2-chloro-4-trifluoromethyl-phenol and 19.29 gm (0.1 mol) of 2,6-dichloro-4-nitro-pyridine. The resulting mixture was stirred for 2 hours at room temperature, and was then stirred into 250 ml of ice water. An oil separated out, which crystallized after some time. The crystalline product was collected by suction filtration, washed with water and dissolved in chloroform. The resulting solution was shaken with water, and the organic phase was separated, dried with sodium sulfate and evaporated to dryness. 25.3 gm (75% of theory) of the title compound were obtained as a colorless substance having a melting point of 66° C.

reactant | potassium carbonate | 0.12 mol, 16.5 gm | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4-trifluoromethyl-phenol | 0.1 mol, 19.65 gm | ClC1=C(C=CC(=C1)C(F)(F)F)O | C7H4ClF3O
reactant | 2,6-dichloro-4-nitro-pyridine | 0.1 mol, 19.29 gm | ClC1=NC(=CC(=C1)[N+](=O)[O-])Cl | C5H2Cl2N2O2
product | 2,6-Dichloro-4-(2-chloro-4-trifluoromethyl-phenoxy)-pyridine | ClC1=NC(=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)Cl | C12H5Cl3F3NO
